US04631286
9-Amino-3,4-dihydroacridine hemihydrate
In 50 ml of HOAc was dissolved 3.00 g of 9-amino-1,2,3,4-tetrahydroacridin-1-ol. To this mechanically stirred solution at room temperature was added 0.75 ml (1 eq) of H2SO4. The reaction mixture was warmed on a steam bath causing a precipitate to form. After 0.5 hour of heating, the reaction was complete based on thin layer chromatography. The reaction mixture was poured into excess ice/10% NaOH and the precipitate was collected. The precipitate was dissolved in dichloromethane, dried over MgSO4, filtered, and evaporated to a solid which was purified by silica gel chromatography to yield a solid. Two recrystallizations from dichloromethane/hexanes yielded 1.40 g (75% crude yield prior to chromatography) of a powder, melting point 178°-179° C.

reactant | 9-amino-1,2,3,4-tetrahydroacridin-1-ol | 3.00 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)O | C13H14N2O
reactant | H2SO4 | 0.75 ml, 1 eq | OS(=O)(=O)O | H2O4S
solvent | HOAc | 50 ml | CC(=O)O | C2H4O2
product | 9-Amino-3,4-dihydroacridine hemihydrate | O.NC=1C2=CC=CC=C2N=C2CCC=CC12.NC=1C2=CC=CC=C2N=C2CCC=CC12 | InChI=1S/2C13H12N2.H2O/c2*14-13-9-5-1-3-7-11(9)15-12-8-4-2-6-10(12)13;/h2*1-3,5-7H,4,8H2,(H2,14,15);1H2
